US09428511B2
Triphenylphosphine (11.96 g, 45.6 mmol) was added to a stirred acetonitrile (164 ml) and water (16.44 ml) solution of benzyl 3-azido-4-methylpyrrolidine-1-carboxylate (11.3 g, 43.4 mmol). The reaction mixture was heated up to 60° C. overnight. The reaction mixture was concentrated. The resulting residue was diluted with 50 mL ice water, treated with 1N HCl (47.8 ml, 47.8 mmol). The aqueous acidic solution (pH 1) was extracted with EtOAc (4×100 mL) to remove Ph3P and Ph3PO by-products/impurities. The acidic aqueous portion containing the product was cooled in an ice bath, neutralized with 1N NaOH (52.1 ml, 52.1 mmol). The resulting cloudy mixture was then extracted with DCM (3×150 mL). The combined DCM phases were washed with brine, dried over anhydrous sodium sulfate. After concentration, (3S,4S)-benzyl 3-amino-4-methylpyrrolidine-1-carboxylate (9.8 g, 96% yield) was obtained as a light yellow oil. 1H NMR (400 MHz, chloroform-d) δ ppm 7.31-7.47 (5H, m), 5.09-5.23 (2H, m), 3.42-3.69 (3H, m), 3.12-3.38 (2H, m), 2.17-2.36 (1H, m), 1.31 (2H, br), 1.06 (3H, dd, J=6.82, 3.30 Hz); LCMS (CHROMOLITH® RP-18e 2.0×50 mm, 0.8 mL/min, Solvent A: 10% MeOH/water with 0.1% TFA, Solvent B: 90% MeOH/water with 0.1% TFA, gradient with 0-100% B over 4 minutes) retention time: 1.97 min; MS(ES+) m/z: 235.1 (M+H+).

reactant | Triphenylphosphine | 45.6 mmol, 11.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzyl 3-azido-4-methylpyrrolidine-1-carboxylate | 43.4 mmol, 11.3 g | N(=[N+]=[N-])C1CN(CC1C)C(=O)OCC1=CC=CC=C1 | C13H16N4O2
reactant | HCl | 47.8 mmol, 1N, 47.8 ml | Cl | ClH
reactant | NaOH | 52.1 mmol, 1N, 52.1 ml | [OH-].[Na+]
solvent | water | 16.44 ml | O | H2O
solvent | acetonitrile | 164 ml | C(C)#N | C2H3N
product | (3S,4S)-benzyl 3-amino-4-methylpyrrolidine-1-carboxylate | 9.8 g, 96% yield | N[C@@H]1CN(C[C@@H]1C)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
